US04864052
A solution of 2.97 g (15.0 mmol) of (2-methyl-3phenylphenyl)methanol in 1.5 ml of pyridine and 10 ml of diethyl ether, was dropwise added to a solution of 2.80 g (15.0 mmol) of 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarbonyl chloride in 10 ml of diethyl ether, and the mixture was stirred at room temperature for 3 hours. After an addition of 20 ml of hexane thereto, the inorganic salt was filtered off, and the filtrate was concentrated under reduced pressure. The product was purified by column chromatography (silica gel, dichloromethane/hexane=1/2) to obtain 4.23 g of (2-methyl-3-phenylphenyl)methyl 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate as a colorless oil.

reactant | (2-methyl-3phenylphenyl)methanol | 15.0 mmol, 2.97 g | CC1=C(C=CC=C1C1=CC=CC=C1)CO | C14H14O
reactant | 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarbonyl chloride | 15.0 mmol, 2.80 g | CC1(C(C1C=C(C)C)C(=O)Cl)C | C10H15ClO
reactant | hexane | 20 ml | CCCCCC | C6H14
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (2-methyl-3-phenylphenyl)methyl 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate | 4.23 g | CC1(C(C1C=C(C)C)C(=O)OCC1=C(C(=CC=C1)C1=CC=CC=C1)C)C | C24H28O2
